US07612092B2
1-{2-Chloro-4-[6-[4-(3-diethylaminopropoxy)phenyl]-7-(2-trimethylsilanylethoxymethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy]phenyl}-3-cyclopropylurea
After dissolving the 2-chloro-4-[6-[4-(3-diethylaminopropoxy)phenyl]-7-(2-trimethylsilanylethoxymethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy]phenylamine synthesized in Production Example 160-2 in 0.6 ml of dimethylsulfoxide, 23 mg of phenyl cyclopropylcarbamate was added and the mixture was stirred at 80° C. for 1.5 hours. After further adding 75 mg of phenyl N-cyclopropylcarbamate and stirring at 100° C. for 5 hours, 70 mg of the same reagent was added prior to stirring overnight. The mixture was then returned to room temperature, water was added, and liquid separation and extraction were performed with an ethyl acetate: tetrahydrofuran (5:1) mixed solvent. The organic layer was dried over sodium sulfate, concentrated and subjected to NH silica gel column chromatography (hexane-ethyl acetate) to obtain 18 mg of the title compound.

reactant | 2-chloro-4-[6-[4-(3-diethylaminopropoxy)phenyl]-7-(2-trimethylsilanylethoxymethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy]phenylamine | ClC1=C(C=CC(=C1)OC=1C2=C(N=CN1)N(C(=C2)C2=CC=C(C=C2)OCCCN(CC)CC)COCC[Si](C)(C)C)N | C31H42ClN5O3Si
reactant | phenyl cyclopropylcarbamate | 23 mg | C1(CC1)NC(OC1=CC=CC=C1)=O | C10H11NO2
reactant | phenyl N-cyclopropylcarbamate | 75 mg | C1(CC1)NC(OC1=CC=CC=C1)=O | C10H11NO2
reactant | water | O | H2O
solvent | dimethylsulfoxide | 0.6 ml | CS(=O)C | C2H6OS
product | 1-{2-Chloro-4-[6-[4-(3-diethylaminopropoxy)phenyl]-7-(2-trimethylsilanylethoxymethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy]phenyl}-3-cyclopropylurea | 18 mg | ClC1=C(C=CC(=C1)OC=1C2=C(N=CN1)N(C(=C2)C2=CC=C(C=C2)OCCCN(CC)CC)COCC[Si](C)(C)C)NC(=O)NC2CC2 | C35H47ClN6O4Si
